US08470820B2
Step 3: 6-Methyl-3-(pyrimidin-5-ylamino)-pyrazine-2-carboxylic acid
6-Methyl-3-(pyrimidin-5-ylamino)-pyrazine-2-carboxylic acid ethyl ester (300 mg, 1.15 mmol) was dissolved in a THF/ethanol (5 ml/1 ml) mixture, cooled to 0° C. and treated with lithium hydroxide (4.7 ml, 1N aqueous solution). The reaction mixture was allowed to warms to ambient temperature and stirred at that temperature for 1 hour. The pH value was subsequently adjusted to acidic and the resulting suspension was filtrated. The precipitate was washed with water and ethyl acetate and dried to yield the product as light yellow solid (185 mg, 69%).

reactant | 6-Methyl-3-(pyrimidin-5-ylamino)-pyrazine-2-carboxylic acid ethyl ester | 1.15 mmol, 300 mg | C(C)OC(=O)C1=NC(=CN=C1NC=1C=NC=NC1)C | C12H13N5O2
reactant | lithium hydroxide | 1N, 4.7 ml | [OH-].[Li+]
solvent | THF ethanol | 5 ml | C1CCOC1.C(C)O
product | 6-Methyl-3-(pyrimidin-5-ylamino)-pyrazine-2-carboxylic acid | 185 mg, 69% | CC1=CN=C(C(=N1)C(=O)O)NC=1C=NC=NC1 | C10H9N5O2
